US06548667B2
(2R)-2-[(2-(4-methoxyphenylthio)benzthiazol-6-sulfonyl)amino]-3-(4-(3-phthalimido-1-propyl)oxyphenyl)propionic Acid Methylester
(2R)-2-[(2-Chlorobenzthiazol-6-sulfonyl)amino]-3-(4-(3-phthalimido-1-propyl)oxyphenyl)propionic acid methylester (0.24 g, 0.39 mmol) prepared in a similar manner as in Example 59 was dissolved in MeCN (3 mL). K2CO3 (0.081 g, 1.5 equi.) were added to the solution in a solid form and then, 4-methoxybenzthiol (0.053 mL, 1.1 equi.) was added and refluxed for 3 hours. After starting material was exhausted, water/ethylacetate (5 mL/10 mL) was added and the product was extracted with an organic solvent. The organic phase was washed with NaCl solution, dried over anhydrous MgSO4, distilled under reduced pressure and then, purified on silica gel chromatography using ethylacetate/n-hexane (1/2) to prepare the titled compound, (2R)-2-[(2-(4-methoxyphenylthio)benzthiazol-6-sulfonyl)amino]-3-(4-(3-phthalimido-1-propyl)oxyphenyl)propionic acid methylester (0.2 g, 70%).

reactant | (2R)-2-[(2-Chlorobenzthiazol-6-sulfonyl)amino]-3-(4-(3-phthalimido-1-propyl)oxyphenyl)propionic acid methylester | 0.39 mmol, 0.24 g | COC([C@@H](CC1=CC=C(C=C1)OCCCN1C(C=2C(C1=O)=CC=CC2)=O)NS(=O)(=O)C2=CC1=C(N=C(S1)Cl)C=C2)=O | C28H24ClN3O7S2
reactant | K2CO3 | 0.081 g | C(=O)([O-])[O-].[K+].[K+]
reactant | water ethylacetate | 5 mL | O.C(C)OC(C)=O
solvent | MeCN | 3 mL | CC#N | C2H3N
product | (2R)-2-[(2-(4-methoxyphenylthio)benzthiazol-6-sulfonyl)amino]-3-(4-(3-phthalimido-1-propyl)oxyphenyl)propionic Acid Methylester | COC([C@@H](CC1=CC=C(C=C1)OCCCN1C(C=2C(C1=O)=CC=CC2)=O)NS(=O)(=O)C2=CC1=C(N=C(S1)SC1=CC=C(C=C1)OC)C=C2)=O | C35H31N3O8S3
